US04478849
4-Benzyloxy-3-hydroxymethylphenylglyoxal
1-(4-Benzyloxy-3-hydroxymethylphenyl)ethanone (10.4 g) was added portionwise to a stirred solution of selenium dioxide (5.5 g) in water (0.9 ml) and dioxan (100 ml) at 60°. The mixture was stirred under reflux for 4 hours, filtered whilst hot and allowed to cool. The solid was collected and recrystallised from dioxan as a dimer, mp 180°-181° (7.7 g). (d6DMSO) 5.13 (1H, s), 4.94 (1H, s), 4.72 (2H, s), 3.42 (1H, d, J=10 Hz), 3.24 (1H, d, J=10 Hz), 2.72 (1H, m), 2.54 (5H, m), 2.04 (1H, m), 1.46 (1H, m).

reactant | 1-(4-Benzyloxy-3-hydroxymethylphenyl)ethanone | 10.4 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)CO | C16H16O3
reactant | selenium dioxide | 5.5 g | [Se](=O)=O | O2Se
solvent | water | 0.9 ml | O | H2O
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | 4-Benzyloxy-3-hydroxymethylphenylglyoxal | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(=O)C=O)CO | C16H14O4
